US07553965B2
a) [4-(7,8-Dimethoxy-1-oxo-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-butyl]-carbamic acid tert-butyl ester
Over a suspension of 7,8-Dimethoxy-2a,3,4,5-tetrahydro-2H-3-aza-acenaphthylen-1-one (0.950 g, 4.1 mmol), K2CO3 (1.89 g, 13.6 mmol) and NaI (0.061 g, 0.4 mmol) in DMF (20 ml) is slowed added (4-Bromo-butyl)-carbamic acid tert-butyl ester (1.09 g, 4.32 mmol) and the mixture is stirred overnight. Then, water (40 ml) and ethyl acetate (40 ml) are added and the layers are separated. The aqueous phase is extracted with ethyl acetate (2×40 ml). The organic layers are collected and washed with water (3×40 ml). After drying with Na2SO4, filtration and vacuum concentration, a brown oil is obtained, which is purified by silicagel chromatography using a gradient of CH2Cl2/methanol (from 100% to 98% CH2Cl2) to obtain a brown solid (0.730 g, 45% yield)

reactant | 7,8-Dimethoxy-2a,3,4,5-tetrahydro-2H-3-aza-acenaphthylen-1-one | 4.1 mmol, 0.950 g | COC=1C=C2CCNC3CC(C(C1OC)=C32)=O | C13H15NO3
reactant | K2CO3 | 13.6 mmol, 1.89 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.4 mmol, 0.061 g | [Na+].[I-]
reactant | (4-Bromo-butyl)-carbamic acid tert-butyl ester | 4.32 mmol, 1.09 g | C(C)(C)(C)OC(NCCCCBr)=O | C9H18BrNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
product | [4-(7,8-Dimethoxy-1-oxo-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-butyl]-carbamic acid tert-butyl ester | 0.730 g, 45% yield | C(C)(C)(C)OC(NCCCCN1C2CC(C=3C(=C(C=C(CC1)C32)OC)OC)=O)=O | C22H32N2O5
